US05705697
Synthesis of N-(3,4-dimethylphenyl)-4-biphenylamine Intermediate
In a 1 liter round bottomed flask equipped with a mechanical stirrer and fitted with a Dean-Stark trap under a reflux condenser were placed 166.48 grams (1.02 mole) of N-(3,4-dimethylphenyl)acetamide, 233.1 gram (1.02 mole) of 4-bromobiphenyl, 7.5 grams (0.03 mole) of cupric sulfate pentahydrate, 165.86 grams (1.2 moles) of potassium carbonate, and 20 milliliters of tridecane solvent. The resulting reaction mixture was then heated rapidly over a period of about thirty minutes to a temperature of 230° C. (Centigrade) and allowed to proceed for 14 hours at this temperature. The reaction was then allowed to cool to 80° C. and 800 milliliters of denatured alcohol and 165.5 grams (2.95 moles) of flake potassium hydroxide were added. The reaction mixture was then reheated to reflux for 3 hours to complete the amide hydrolysis. The reaction mixture was then cooled to room temperature, about 25° C., and added rapidly to 2 liters of deionized water to provoke precipitation. The intermediate product was filtered and washed liberally with deionized water. The resulting wet cake was taken up in 1 liter of hot isooctane and water was removed by azeotropic distillation. The intermediate product was decolorized by adding 45 grams of Alcoa CG-20 alumina and stirring at reflux for 3 hours. The intermediate product was then recrystallized on cooling to room temperature and was isolated by vacuum filtration. An off-white powder of weight 202.2 grams (74 percent) resulted, suitable for use in the following Example II reaction. Purity of this intermediate product was about 97 to about 99.5 percent as determined by high performance liquid chromatography.

reactant | N-(3,4-dimethylphenyl)acetamide | 1.02 mole, 166.48 grams | CC=1C=C(C=CC1C)NC(C)=O | C10H13NO
reactant | 4-bromobiphenyl | 1.02 mole, 233.1 gram | BrC1=CC=C(C=C1)C1=CC=CC=C1 | C12H9Br
reactant | potassium carbonate | 1.2 moles, 165.86 grams | C([O-])([O-])=O.[K+].[K+]
reactant | potassium hydroxide | 2.95 moles, 165.5 grams | [OH-].[K+]
solvent | tridecane | 20 milliliters | CCCCCCCCCCCCC | C13H28
solvent | water | 2 liters | O | H2O
product | N-(3,4-dimethylphenyl)-4-biphenylamine | CC=1C=C(C=CC1C)NC1=CC=C(C=C1)C1=CC=CC=C1 | C20H19N
